US05158963
5-Ethoxycarbonyl-3-isopropoxycarbonyl-1,4-dihydro-2,6-dimethyl-4-(3-ethynylphenyl)pyridine
To a mixture of 0.65 g (0.005 mol) of 3ethynylbenzaldehyde, 1.08 g (0.0075 mol) of isopropyl acetoacetate and 25 ml of isopropyl alcohol were added 2 to 3 drops of piperidine. After heating the mixture under reflux for 24 hours, 0.65 g (0.005 mol) of ethyl 3-aminocrotonate was added thereto, further the admixture was heated under reflux for 24 hours. After completing the reaction, the reaction mixture was concentrated. The obtained precipitate was purified by subjecting to silica gel column chromatography [eluent: n-hexane to n-hexane: ethyl acetate (7 : 3)] to give 1.1 g of the desired compound (yield: 58.6%).

reactant | 3ethynylbenzaldehyde | 0.005 mol, 0.65 g | C(#C)C=1C=C(C=O)C=CC1 | C9H6O
reactant | isopropyl acetoacetate | 0.0075 mol, 1.08 g | C(CC(=O)C)(=O)OC(C)C | C7H12O3
reactant | ethyl 3-aminocrotonate | 0.005 mol, 0.65 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
catalyst | piperidine | 2 to 3 drops | N1CCCCC1 | C5H11N
product | 5-Ethoxycarbonyl-3-isopropoxycarbonyl-1,4-dihydro-2,6-dimethyl-4-(3-ethynylphenyl)pyridine | 1.1 g, yield: 58.6% | C(C)OC(=O)C=1C(C(=C(NC1C)C)C(=O)OC(C)C)C1=CC(=CC=C1)C#C | C22H25NO4
